2105-08-02 05:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   UCx negative inspite of UA. Unclear how to interpret
   EEG pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-8-2**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: 7.40/38/178/22/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   11.2 g/dL
   104 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.2 mEq/L
   5 mg/dL
   109 mEq/L
   139 mEq/L
   33.5 %
   10.6 K/uL
        [image002.jpg]
   BLOOD GASES
                                    Type
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   [1][**2105-8-2**] 04:09AM
                                     ART
                                    178*
                                     38
                                    7.40
                                     24
                                      0
   [2][**2105-8-2**] 02:18AM
                                     ART
                                    168*
                                     29*
                                    7.50*
                                     23
                                      0
   [3][**2105-8-1**] 02:44AM
                                     ART
                                    178*
                                     34*
                                    7.44
                                     24
                                      0
   [4][**2105-7-31**] 09:51PM
                                     ART
                                    194*
                                     33*
                                    7.42
                                     22
                                     -1
   [5][**2105-7-31**] 12:01PM
                                     [**Last Name (un) **]
                                    130*
                                     46*
                                    7.34*
                                     26
                                     -1
                             [**2105-7-31**]  06:14 PM
                             [**2105-7-31**]  09:51 PM
                             [**2105-7-31**]  09:55 PM
                             [**2105-8-1**]  02:26 AM
                             [**2105-8-1**]  02:44 AM
                             [**2105-8-2**]  02:05 AM
                             [**2105-8-2**]  02:18 AM
                             [**2105-8-2**]  04:09 AM
   WBC
   18.0
   11.4
   10.6
   Hct
   35.3
   37
   33.7
   33.5
   Plt
   258
   195
   202
   Cr
   0.5
   0.5
   0.5
   TCO2
   22
   24
   23
   24
   Glucose
   159
   103
   104
   Other labs: PT / PTT / INR:15.0/58.3/1.3, ALT / AST:13/18, Alk Phos / T
   Bili:102/0.6, Amylase / Lipase:/31, Lactic Acid:0.8 mmol/L, Albumin:3.1
   g/dL, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   This is a 31 yom with history of MVA in Bolivia in [**2091**] with resultant
   quadriplegia s/p several VP shunts and seizure disorder who presents
   from home with seizures.
   # Seizures:  Patient presents with typical seizures which have been
   controlled for four years on Keppra.  Patient with +UTI on UA which is
   likely source of infection.  Patient given Vanco, CTX, and Acyclovir in
   ED out of concern for meningitis, however, CSF clear. Liver/Gallbladder
   U/S ordered for reevaluation of ? stones/cholecystitis? - which is
   unlikely given normal LFTs.
   - D/Ced CTX, Acyclovir
   - Changed to zosyn from levo. ID consent pending.
   - cont Keppra
   - cont Dilantin per Neuro
   - f/u Neuro recs:
   - f/u NS recs: get VP study Monday
   - f/u EEG
   - f/u UCx, BCx
   # UTI: Patient with UTI on UA.  Last UTI in [**3-23**] due to pan-sensitive
   Proteus. will treat with Cipro/Vanco for now.  Renal U/S ordered for
   evaluation of obstruction showed stones but NL urine flow.
   - Zosyn
   - f/u UCx. First set negative
   # Hypotension:  unclear etiology but concerning for sepsis given
   unresponsiveness to fluids boluses.  Other possible cause is propofol
   which was used for sedation, now on midazolam.
   - weaned from Levophed
   - 500cc IVF boluses PRN
   - monitor CVP
   - cont Abx as above for treatment of possible sepsis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer:
   VAP:  Head elevation
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_20%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_22%22);

2105-08-03 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated, stable throughout day
   Called out to medicine
   Neuro: continue same rx, if c/o can be followed by general neurology
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-8-3**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 76 (72-92) bpm
   BP: 91/63 (84-117/47-82)
   RR: 16 ([**9-5**])
   SpO2: 98% 2L NC
                  Total In:
                                                                  1.6 L mL
                                                                  0.1 L mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  4.0 L mL
                                                                  0.3 L mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2.4 L mL
                                                                 -0.2 L mL
   Respiratory support
   ABG: 7.41/32/176/26/-2
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   189 K/uL
   11.4 g/dL
   82 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   5 mg/dL
   106 mEq/L
   138 mEq/L
   34.2 %
   8.3 K/uL
        [image002.jpg]
                             [**2105-7-31**]  06:14 PM
                             [**2105-7-31**]  09:51 PM
                             [**2105-7-31**]  09:55 PM
                             [**2105-8-1**]  02:26 AM
                             [**2105-8-1**]  02:44 AM
                             [**2105-8-2**]  02:05 AM
                             [**2105-8-2**]  02:18 AM
                             [**2105-8-2**]  04:09 AM
                             [**2105-8-2**]  10:57 AM
                             [**2105-8-3**]  03:26 AM
   WBC
   18.0
   11.4
   10.6
   8.3
   Hct
   35.3
   37
   33.7
   33.5
   34.2
   Plt
   258
   195
   202
   189
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   22
   24
   23
   24
   21
   Glucose
   159
   103
   104
   85
   82
   Other labs: PT / PTT / INR:14.1/71.6/1.2, ALT / AST:13/18, Alk Phos / T
   Bili:102/0.6, Amylase / Lipase:/31, Lactic Acid:0.8 mmol/L, Albumin:3.1
   g/dL, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is a 31 yom with history of MVA in Bolivia in [**2091**] with resultant
   quadriplegia s/p several VP shunts and seizure disorder who presents
   from home with seizures.
   # Seizures:  Patient presents with typical seizures which have been
   controlled for four years on Keppra.  Patient with +UTI on UA which is
   likely source of infection.  Patient given Vanco, CTX, and Acyclovir in
   ED out of concern for meningitis, however, CSF clear. Liver/Gallbladder
   U/S ordered for reevaluation of ? stones/cholecystitis? - which is
   unlikely given normal LFTs.
   - D/Ced CTX, Acyclovir
   - Changed to zosyn from levo. ID consent pending.
   - cont Keppra
   - cont Dilantin per Neuro
   - f/u Neuro recs:
   - f/u NS recs: get VP study Monday
   - f/u EEG
   - f/u UCx, BCx
   # UTI: Patient with UTI on UA.  Last UTI in [**3-23**] due to pan-sensitive
   Proteus. will treat with Cipro/Vanco for now.  Renal U/S ordered for
   evaluation of obstruction showed stones but NL urine flow.
   - Zosyn
   - f/u UCx. First set negative
   # Hypotension:  unclear etiology but concerning for sepsis given
   unresponsiveness to fluids boluses.  Other possible cause is propofol
   which was used for sedation, now on midazolam.
   - weaned from Levophed
   - 500cc IVF boluses PRN
   - monitor CVP
   - cont Abx as above for treatment of possible sepsis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  L Subclavian
               PIVx2
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: